US08110570B2
A solution of 436 mg (1.27 mmol) of benzyl 2-benzyloxy-5-cyanobenzoate, 91 mg (1.40 mmol) of sodium azide, and 68 mg (1.27 mmol) of ammonium chloride in 5 mL of DMF is heated at 120° C. for 24 hrs. The DMF was removed by rotoevaporation, the residue is taken up in water, and acidified. The white precipitate is collected by filtration and dried to give 500 mg of unpurified benzyl 2-benzyloxy-5-(1H-tetrazol-5-yl)benzoate, which is treated with 28% aqueous ammonium hydroxide in 5 mL of MeOH at 85° C. for 72 hrs. The reaction mixture was concentrated, taken up in water, and then acidified. Filtration of the precipitate gives 400 mg (1.04 mmol, 82% yield) of 2-benzyloxy-5-(1H-tetrazol-5-yl)benzamide.

reactant | benzyl 2-benzyloxy-5-cyanobenzoate | 1.27 mmol, 436 mg | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=C(C=C1)C#N | C22H17NO3
reactant | sodium azide | 1.40 mmol, 91 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.27 mmol, 68 mg | [Cl-].[NH4+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | benzyl 2-benzyloxy-5-(1H-tetrazol-5-yl)benzoate | 500 mg | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=C(C=C1)C1=NN=NN1 | C22H18N4O3
